US07399867B2
Dissolve 6-benzyloxy-2,3-dibromo-benzo[b]thiophene (20 g, 50 mmol) in dichloromethane (88 mL) and add trifluoroacetic acid (88 mL). Stir for 10 minutes, then add 30% aqueous solution of hydrogen peroxide (5.1 mL, 50 mmol) and stir for 4 hours. Add solid sodium bisulfite (2.2 g, 21 mmol), dilute with water (30 mL), stir for 15 minutes, and then concentrate in vacuo. Partition residue between dichloromethane (150 mL) and saturated aqueous sodium bicarbonate (150 mL), separate layers, wash organic layer with additional saturated aqueous sodium bicarbonate (150 mlT) and brine (100 mL). Dry with sodium sulfate, filter, and concentrate in vacuo; Chromatograph on a SiO2 column eluting with 100% dichloromethane to give 12.8 g of 6-benzyloxy-2,3-dibromo-benzo[b]thiophene 1-oxide (62%).

reactant | 6-benzyloxy-2,3-dibromo-benzo[b]thiophene | 50 mmol, 20 g | C(C1=CC=CC=C1)OC=1C=CC2=C(SC(=C2Br)Br)C1 | C15H10Br2OS
reactant | trifluoroacetic acid | 88 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | hydrogen peroxide | 50 mmol, 5.1 mL | OO | H2O2
reactant | sodium bisulfite | 21 mmol, 2.2 g | S([O-])(O)=O.[Na+]
solvent | dichloromethane | 88 mL | ClCCl | CH2Cl2
solvent | water | 30 mL | O | H2O
product | 6-benzyloxy-2,3-dibromo-benzo[b]thiophene 1-oxide | 12.8 g, 62% | C(C1=CC=CC=C1)OC=1C=CC2=C(S(C(=C2Br)Br)=O)C1 | C15H10Br2O2S
